US05221761
The trithienyl boron is further dissolved in dry tetrahydrofuran (30 ml), one equivalent of 2-thienyllithium is added dropwise to the mixture at 0° C. under nitrogen. The precipitate formed is filtered and dried to obtain pure lithium tetra(2-thienyl)borate.

reactant | trithienyl boron | S1C(=CC=C1)B(C=1SC=CC1)C=1SC=CC1 | C12H9BS3
reactant | 2-thienyllithium | one equivalent | S1C(=CC=C1)[Li]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | lithium tetra(2-thienyl)borate | S1C(=CC=C1)[B-](C=1SC=CC1)(C=1SC=CC1)C=1SC=CC1.[Li+] | InChI=1S/C16H12BS4.Li/c1-5-13(18-9-1)17(14-6-2-10-19-14,15-7-3-11-20-15)16-8-4-12-21-16;/h1-12H;/q-1;+1
